US05910504
3-Fluoro-1-nitro-4-(1H-1,2,4-triazol-1-yl)benzene
A solution of 5.0 g (72.4 mmol) of 1H-1,2,4-triazole and 25.22 g (144.8 mmol) of dibasic potassium phosphate in 150 mL DMSO was treated with 11.52 g (72.4 mmol) of 3,4-difluoronitrobenzene followed by warming at 90° C. for 3 h. The solution was cooled and added to 500 mL water, and the resulting white solid was collected by filtration and washed with water. The white solid obtained was dried in vacuo (60° C./10 mmHg) to afford 10.79 g (72%) of the title compound as a white solid. High Resolution Mass Spectrum: Calculated for C8H5FN4O2 : 208.0396. Found: 208.0408.

reactant | 1H-1,2,4-triazole | 72.4 mmol, 5.0 g | N1N=CN=C1 | C2H3N3
reactant | potassium phosphate | 144.8 mmol, 25.22 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 3,4-difluoronitrobenzene | 72.4 mmol, 11.52 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | water | 500 mL | O | H2O
solvent | DMSO | 150 mL | CS(=O)C | C2H6OS
product | 3-Fluoro-1-nitro-4-(1H-1,2,4-triazol-1-yl)benzene | 10.79 g, 72% | FC=1C=C(C=CC1N1N=CN=C1)[N+](=O)[O-] | C8H5FN4O2
